US04395414
3-(1,2-Dihydro-2-oxo-4-phenylquinol-1-yl)-propionitrile
6.9 g of 1,2-dihydro-2-oxo-4-phenylquinoline are suspended in 45 ml of acrylonitrile, and 3 ml of benzyltrimethylammonium hydroxide are added at 40° to 45° C. During this addition, the mixture starts to boil. After boiling for ten minutes, the acrylonitrile is largely distilled off in vacuo. The residue is heated with 300 ml of ethanol to the boiling point, undissolved material is filtered off and the filtrate is treated with active charcoal and concentrated to 200 ml. The mixture is left to stand for 12 hours and the title compound which has separated out (6.4 l g of m. 162°-165° C.) is filtered off.

reactant | 1,2-dihydro-2-oxo-4-phenylquinoline | 6.9 g | O=C1NC2=CC=CC=C2C(=C1)C1=CC=CC=C1 | C15H11NO
reactant | benzyltrimethylammonium hydroxide | 3 ml | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | acrylonitrile | 45 ml | C(C=C)#N | C3H3N
product | 3-(1,2-Dihydro-2-oxo-4-phenylquinol-1-yl)-propionitrile | O=C1N(C2=CC=CC=C2C(=C1)C1=CC=CC=C1)CCC#N | C18H14N2O
